US09107916B2
G. 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile
To a mixture of methyl (2E)-4-[tert-butyl(dimethyl)silyl]oxy-2-[[2-(4-cyanopyridin-2-yl)hydrazinyl]methylidene]butanoate (3.3 g, 8.77 mmol) in ethanol (50 mL) at 0° C. was added t-BuOK (2.95 g, 26.33 mmol). The reaction mixture was stirred overnight at r.t. It was then cooled to 0° C., diluted with ethyl acetate, and acidified with NaHSO4 (5%) to pH=3. The organic phase was separated and concentrated to a residue which was washed with PE/EA to give 300 mg of the title compound (10%). 1H NMR (400 MHz, CD3OD): δ 0.00 (6H, s), 0.85 (9H, s), 2.49 (2H, d, J=6.4 Hz), 3.74 (2H, d, J=6.4 Hz), 7.48 (1H, dd, J=1.2 Hz, 4.8 Hz), 7.60 (1H, s), 8.57 (1H, d, J=4.8 Hz), 8.61-8.63 (1H, m). [M+H] Calc'd for C17H24N4O2Si, 345. Found, 345.

reactant | methyl (2E)-4-[tert-butyl(dimethyl)silyl]oxy-2-[[2-(4-cyanopyridin-2-yl)hydrazinyl]methylidene]butanoate | 8.77 mmol, 3.3 g | [Si](C)(C)(C(C)(C)C)OCC\C(\C(=O)OC)=C/NNC1=NC=CC(=C1)C#N | C18H28N4O3Si
reactant | t-BuOK | 26.33 mmol, 2.95 g | CC(C)(C)[O-].[K+]
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-[2-[tert-butyl(dimethyl)silyl]oxyethyl]-5-hydroxypyrazol-1-yl]pyridine-4-carbonitrile | 300 mg, 10% | [Si](C)(C)(C(C)(C)C)OCCC=1C=NN(C1O)C1=NC=CC(=C1)C#N | C17H24N4O2Si
